US06656896B2
dimethyl adipate/dimethyl glutarate/dimethyl succinate:
Softening agents: trimethylcyclohexanone, ethyl lactate, cyclohexyl acetate, water, diethanolamine and 1,4-dimethoxybenzene.

reactant | trimethylcyclohexanone | CC1C(C(CCC1)=O)(C)C | C9H16O
reactant | ethyl lactate | C(C(O)C)(=O)OCC | C5H10O3
reactant | cyclohexyl acetate | C(C)(=O)OC1CCCCC1 | C8H14O2
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
reactant | 1,4-dimethoxybenzene | COC1=CC=C(C=C1)OC | C8H10O2
solvent | water | O | H2O
product | dimethyl adipate dimethyl glutarate dimethyl succinate | C(CCCCC(=O)OC)(=O)OC.C(CCCC(=O)OC)(=O)OC.C(CCC(=O)OC)(=O)OC | InChI=1S/C8H14O4.C7H12O4.C6H10O4/c1-11-7(9)5-3-4-6-8(10)12-2;1-10-6(8)4-3-5-7(9)11-2;1-9-5(7)3-4-6(8)10-2/h3-6H2,1-2H3;3-5H2,1-2H3;3-4H2,1-2H3
